US03983135
To a stirred slurry of 12.45 g (0.11 mole) of creatinine in 100 ml of dry DMF is added 16.41 g (0.1 mole) of m-nitrophenyl isocyanate (previously recrystallized from benzenepentane). After 9 hours, ice water is gradually added until crystallization occurres. A large excess of ice water precipitates the product as gummy crystals which then crystallize. The crude product is allowed to air dry for several days. Recrystallization from THF-H2O followed by THF gives pure product, 1-(1-methyl-4-oxo-2-imidazolidinylidene)-3-m-nitrophenyl urea; m.p. 182°-188°C sl. dec.

reactant | creatinine | 0.11 mole, 12.45 g | CN1CC(=O)N=C1N | C4H7N3O
reactant | m-nitrophenyl isocyanate | 0.1 mole, 16.41 g | [N+](=O)([O-])C=1C=C(C=CC1)N=C=O | C7H4N2O3
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-(1-methyl-4-oxo-2-imidazolidinylidene)-3-m-nitrophenyl urea | CN1C(NC(C1)=O)=NC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C11H11N5O4
